Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Adhesive / Tegaderm / morphine / Dilaudid
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
Bronchoscopy
Left bronchial arteriogram

 
History of Present Illness:
As per admitting MD:
=============================================================
ONCOLOGY HOSPITALIST ADMISSION NOTE
=============================================================

DATE: ___
PRIMARY ONCOLOGIST: ___ MD; ___ MD, PHD
PRIMARY DIAGNOSIS: Metastatic NSCLC
TREATMENT REGIMEN: Erlotinib

=== HPI ===
Chief Complaint:  Dyspnea, pleuritic chest pain, hemoptysis

___ is a ___ woman with metastatic NSCLC on
erlotinib, PE (on lovenox), who presented with sharp pleuritic
chest pain, dyspnea, palpitations and cough productive of blood
streaked sputum. 

Mrs. ___ and ___ daughter report that she has had a 3 week
history of worsening cough, dyspnea, and left sided pleuritic
chest pain. She called into her ___ clinic on ___
complaining of worsening cough without any other symptoms
concerning for infection or PE. She was advised to continue
symptomatic management with gabapentin, tessalon perles, and
cough syrup. She reports she did uptitrate her gabapentin to 300
mg BID on ___ days prior to admission) with some modest
transient improvement but also with significant sedation. She
reports she did not regularly use her tessalon perles, cough
syrup, or newly prescribed albuterol inhaler as she found these
unhelpful.

Her daughter notes that Mrs. ___ was previously able to climb 
2
flights of stairs without exertional dyspnea, but noticed that
over the last ___ days, she had dyspnea after 1 flight of 
stairs.
Last night, Mrs. ___ noticed worsening left sided pleuritic
chest pain ___ whereas her usual is ___ with deep
inspiration). The next morning, she also had dyspnea at rest,
which prompted presentation. Over the last 3 weeks, Mrs. ___
noticed too that her cough had gone from dry to blood streaked 
to
a quarter size fresh blood in the ED. 

Otherwise she denies fevers/chills, leg swelling, palpitations.
No sick contacts, no cold symptoms. 

In the ED: T ___ F | 99 | 116/62 | 100% RA. She did become
hypotensive to 63/47 shortly after receiving IV dilaudid 0.5 mg.
BPs improved to ___ with 1L NS bolus. She also was
briefly placed on 2L NC after a documented O2sat of 91% on RA,
but subsequently this was removed with repeat VS showing 100% on
RA. 

A CXR showed no change from baseline. A CTA was done which
showed:
1. No evidence of acute pulmonary embolism.
2. Interval increase in size of right lower lobe nodule and
increased conspicuity of pre-existing right upper and middle 
lobe
nodules.
3. Overall similar appearance of ill-defined left hilar soft
tissue mass with apical fluid component, persistently encasing
the pulmonary vasculature and the descending aorta. 

She was admitted for further respiratory monitoring to oncology. 


 
Past Medical History:
As per admitting MD:
- HTN
- Hypothyroidism
- PE on lovenox
- Osteoporosis
- EGFR positive metastatic NSCLC (malignant L pleural effusion
s/p Pleurx and talc pleurodesis in ___ osseous mets)

     ONCOLOGIC AND TREATMENT HISTORY:
Current Treatment:
- Erlotinib: started ___

Oncologic History:
- Presented with back pain ___, referred for physical therapy
- MRI of the back ___ showed left lower lung mass
- ___ Chest CT: mass in superior segment of the left lower
lobe with associated lung collapse
-  ___ PET-CT: FDG-positive mass in the left lower lobe
without any uptake in the mediastinum or elsewhere.  
- ___ mediastinoscopy with biopsy of mediastinal lymph nodes
at level 4R, 4L and 2R, all positive for adenocarcinoma. Biopsy
from the left lower lobe lesions confirmed adenocarcinoma
- EGFR positive
- ___ bone biopsy negative for malignancy
- ___ CXR showed pleural effusion, no thoracentesis done
- ___: concomitant chemoradiation with cisplatin/etoposide
for 2 cycles
- ___: Cisplatin/Alimta for 2 cycles 
- ___: PET scans with decreased FDG-avidity; no
evidence of tumor recurrence
- ___: PET with new left pleural effusion; thoracentesis
shows that cytology is positive for adenocarcinoma.
- ___: took Tarceva 150 mg PO daily; developed
dehydration, extreme fatigue, nausea, diarrhea resulting in a
hospitalization from ___ stopped Tarceva
- ___: talc pleurodesis and pleurex catheter placement for
management of malignant pleural effusion, catheter was pulled
prior to discharge
- ___: resumed Tarceva at a dose of 100 mg daily, developed
intolerable side effects of fatigue, nausea, sweats, and
discontinued it on ___.
- ___: presented with pericarditis and a small pericardial
effusion developed which waxed and waned but was never tapped.
- ___: restarted Tarceva 25 mg daily
- ___: increased Tarceva to 50 mg daily
- ___: CT with overall stable disease, slight enlargement of
the left hilar mass.
- ___: CT with decrease in size of left hilar mass
- ___: CT with stable disease
- ___: CT with stable disease
- ___: CT with stable disease
- ___: CT with stable disease
- ___ CT chest essentially stable disease
- ___: Imaging with essentially stable disease
- ___ - ___: Admitted for submassive PE; placed on
Enoxaparin
- ___: CT scan showed increased in size of tumor
- ___: CT scan showed increased osteoblastic lesions of the
spine and right pelvis
- ___: PET scan shows increased FDG avid disease in the 
chest
and left hilum as well as uptake in multiple bony sites in the T
and L spine and the pelvic
-___: Repeat biopsy of lung lesion, sent for T790M mutation
testing
-___: Completed ___ fractions of radiation to L2-R hip
-___: T790M mutation reviewed in clinic - result negative.
Increasing erlotinib to 75mg daily
-___: CT TORSO shows improvement in thoracic disease burden
and stable bony disease
-___: CT TORSO shows stable disease
-___: Interval increase in size of a left lower lobe soft
tissue mass abutting the aorta, now measuring up to 3.9 cm and
previously measuring up to 2.7 cm.
-___  CT shows decrease in size of the previously growing
soft tissue mass next to the thoracic aorta. She has no clear
evidence of progression elsewhere, but 2 tiny nonspecific right
lung nodules. Continued erlotinib at 75mg QD
 
Social History:
___
Family History:
As per admitting MD:
Her father was diagnosed with lung cancer at the
age of ___ and died at the age of ___, and he was a smoker.  Prior
to that he was diagnosed with prostate cancer.  Her brother was
also a smoker and was diagnosed with lung cancer at the age of
___.  However, he was never treated for the lung cancer since
prior to the diagnosis since he had a stroke and he likely died
of starvation.  Her maternal aunt had a lung tumor; however, she
never had appropriate workup and diagnosis since that was more
than ___ years ago and probably not in this country.  The patient
lives with her husband and the rest of her family, daughter and
___ are around and in fact she takes care of her
grandchildren and was very active until ___ of diagnosis.
 
Physical Exam:
Admission:
VITAL SIGNS: 97.8 PO BP: 136/69 HR: 77 RR: 16
O2 sat: 97% O2 delivery: RA 
General:  NAD, resting in bed w/ intermittent coughing
HEENT:  MMM no thrush
CV:  RR, NL S1S2 no S3S4, no MRG
PULM:  CTAB, respirations unlabored at rest, decreased aeration
over the L lung field
ABD:  BS+, soft, NTND
LIMBS:  No ___
SKIN:  No rashes on extremities
NEURO:  Grossly WNL, ambulating hallways well

Discharge:
General:  NAD, sitting upright in bed without significant cough
EYES: PERRLA, anicteric
HEENT:  MMM no thrush
CV:  RRR, no MRG, normal distal perfusion
PULM:  CTAB with infrequent squeaks heard in LML/LLL, 
respirations
unlabored at rest, appears comfortable, no coughing fits, has
blood streaked sputum in tissues at bedside (unchanged)
ABD:  BS+, soft, NTND, no rebound or guarding
LIMBS:  No ___, has minimal tenderness in right groin at access 
site,
no hematoma/bruit
SKIN:  No rashes on extremities
NEURO:  AOx3, fluent speech
PSYCH: Normal mood/affect

 
Pertinent Results:
Discharge:

___ 07:15AM BLOOD WBC-4.3 RBC-3.89* Hgb-11.0* Hct-33.5* 
MCV-86 MCH-28.3 MCHC-32.8 RDW-13.2 RDWSD-41.6 Plt ___
___ 07:15AM BLOOD Glucose-92 UreaN-11 Creat-0.6 Na-141 
K-4.5 Cl-101 HCO3-27 AnGap-13
___ 07:15AM BLOOD Calcium-9.6 Phos-3.9 Mg-1.9

Micro:
___ Blood Culture negative
___ Urine culture negative

___ 1:48 pm BRONCHOALVEOLAR LAVAGE      LEFT UPPER LOBE 
BAL. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      ___ CFU/mL Commensal Respiratory Flora. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      This is a low yield procedure based on our in-house 
studies. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

Imaging:
Embolization ___:
Unsuccessful left bronchial artery embolization due to 
difficulty
cannulating the small tortuous left bronchial artery with
vasospasm 

CTA Chest ___. No evidence of acute pulmonary embolism. 2. Interval increase
in size of right lower lobe nodule and increased conspicuity of
pre-existing right upper and middle lobe nodules. 3. Overall
similar appearance of ill-defined left hilar soft tissue mass
with apical fluid component, persistently encasing the pulmonary
vasculature and the descending aorta.

Bronch ___:
No active bleeding but e/o prior bleeding with small amt of
bloody secretions, L>R clearly supportive L sided bleeding.
Bleeding in the left apical segments suggestive of but not
confirmatory of LUL etiology for recent hemoptysis. EBUS TBNA 
LLL
Mass for cytology

CTH:
No acute intracranial abnormalities. 

 
Brief Hospital Course:
Information for Outpatient Providers: ___ w/ metastatic NSCLC on 
(erlotinib), PE (on lovenox), p/w worsening cough of 3 weeks a/w 
subacute progressive sharp pleuritic chest pain, dyspnea, and 
small volume hemoptysis, thought to be ___ LUL mass, for which 
she is s/p bronch and failed embolization attempt, who was 
discharged on lovenox, with stable small volume hemoptysis with 
plan for close outpatient oncology followup

# Dyspnea
# Pleurisy
# Cough
# Small volume hemoptysis 
Sx most most likely due to the large pulmonary mass encasing her 
pulmonary vasculature and pleural involvement. Outpatient 
management has been limited by her reluctance to take meds prn.
In addition, dyspnea also ___ splinting due to musculoskeletal 
strain from coughing. She had a bronchoscopy on ___ which did 
not reveal any active bleeding or obvious source but suspected 
to
be originating from LUL. ___ embolization failed as patient has 
spasm/dissection of artery
which prevented advancement of catheter. As per ___ re-evaluation 
on ___, embolization not to be re-attempted as patient with 
unchanged low level/scant hemoptysis, stable Hgb, and normal
respiratory status on room air. Pt was restarted on lovenox and 
monitored for 24 hrs, and her level of scant hemoptysis remained 
minimal/unchanged. She was discharged with plan to continue 
lovenox for now with close outpatient followup in ___ 
clinic. She was instructed to take robitussin DM during the day 
to prevent sedation, and codeine syrup at night to help with 
cough/sleeping. She was instructed to present to hospital 
immediately should cough, SOB, or hemoptysis worsen. 
Plan/Contingencies also discussed with daughter/HCP ___. 

In ___ clinic, patient will need Hgb/Cough trended, and BAL 
cytology + FNA of lung mass followed up.

# PE
Pt was restarted on lovenox s/p ___ procedure and monitored for 
24 hrs, and her level of scant hemoptysis remained 
minimal/unchanged.

# ___
Noted on admission, thought to be prerenal given elevated BUN 
which quickly resolved with supportive care. Cr was at baseline 
prior to discharge. 

# Opiate-induced hypotension: 
Acutely dropped BP to ___ during admission with IV dilaudid 
0.5 mg, which was subsequently held given hemodynamic effects 
and BP remained stable thereafter

Transitional Issues:
1. Pt was instructed to take robitussin DM during the day to 
prevent sedation, and codeine syrup at night to help with 
cough/sleeping. 
2. In ___ clinic, patient will need Hgb/Cough trended, and 
BAL cytology + FNA of lung mass followed up.

I personally spent 51 minutes coordinating care with outpatient 
providers, preparing discharge paperwork, educating patient and 
answering questions.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benzonatate 100 mg PO TID:PRN cough 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Enoxaparin Sodium 100 mg SC DAILY 
4. Levothyroxine Sodium 137 mcg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Paroxetine 10 mg PO DAILY 
7. Centrum Silver Women (multivit-min-iron-FA-lutein) 8 mg 
iron-400 mcg-300 mcg oral DAILY 
8. Denosumab (Prolia) 60 mg SC Q6MONTHS 
9. Ondansetron 4 mg PO Q8H:PRN nausea 
10. Meclizine 12.5 mg PO TID:PRN dizziness 
11. Guaifenesin-CODEINE Phosphate ___ mL PO HS:PRN cough 
12. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
13. Erlotinib 75 mg PO DAILY 
14. Gabapentin 300 mg PO BID 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY to keep your stool from 
getting hard while taking oxycodone and codeine 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0 
2.  Senna 8.6 mg PO BID to help prevent constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puff INH every 
four (4) hours Disp #*1 Inhaler Refills:*0 
4.  Benzonatate 200 mg PO TID cough 
RX *benzonatate 200 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
5.  Centrum Silver Women (multivit-min-iron-FA-lutein) 8 mg 
iron-400 mcg-300 mcg oral DAILY  
6.  Cyanocobalamin 1000 mcg PO DAILY  
7.  Denosumab (Prolia) 60 mg SC Q6MONTHS  
8.  Enoxaparin Sodium 100 mg SC DAILY  
9.  Erlotinib 75 mg PO DAILY  
10.  Gabapentin 300 mg PO BID  
11.  Guaifenesin-CODEINE Phosphate ___ mL PO HS:PRN cough 
RX *codeine-guaifenesin 10 mg-100 mg/5 mL 5 mL by mouth at 
bedtime Disp ___ Milliliter Milliliter Refills:*0 
12.  Levothyroxine Sodium 137 mcg PO DAILY  
13.  Meclizine 12.5 mg PO TID:PRN dizziness  
14.  Omeprazole 20 mg PO DAILY  
15.  Ondansetron 4 mg PO Q8H:PRN nausea  
16.  PARoxetine 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pleuritic chest pain
Metastatic NSCLC
Small volume hemoptysis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs ___,

___ was a pleasure taking care of you. As you know, you presented 
with coughing and shortness of breath, for which you had a CT 
scan which did not show any significant changes in chest, aside 
some small increase in size of the spots in the right lung. 

Your coughing and pain was thought to be due to the tumor in 
your left chest and strain from coughing. 

You had a bronchoscopy which revealed some blood in your lung 
but did not reveal the source. You had an interventional 
radiology procedure done but was not able to stop the bleeding. 
It was felt that since the bleeding was small, and your risk for 
a clot is high, you can continue your blood thinner but you need 
to stop if your bleeding gets worse. Please follow up with your 
oncology team regarding the lung biopsy. 

To manage the cough during the day, please purchase robitussin 
DM from the pharmacy. Please take codeine cough syrup at night 
as it will suppress the cough the best and help you sleep. 

If your coughing worsens or you develop more bleeding, please 
come back to the hospital immediately
 
Followup Instructions:
___